US07214673B2
(S)-2-Cyclopentyl-10-(3-benzyl-piperazin-1-yl)-4H-3-thia-1,4,9-triaza-benzo[f]azulene
Using a method similar to the method of Example 491, using (S)-2-benzyl-piperazine (1.23 g, 7.0 mmol), 2-cyclopentyl-4,9-dihydro-3-thia-1,4,9-triaza-benzo{f}azulene-10-thione (0.602 g, 2.0 mmol) in 8 ml of pyridine Obtain 240 mg light brown foam of title compound. Mass spectrum (electrospray) (m/e): C26H29N5S, Cacl. Mass: 443.36; Found: 444.1 (M+1); 1H NMR (400 MHz, CDCl3) δ ppm: 7.32–7.21 (m, 5H), 7.03–6.97 (m, 2H), 6.86 (dt, 1H, J=7.8 Hz, J=1.9 Hz), 6.61 (d, 1H, J=7.8 Hz), 5.00 (br, 1H), 3.21–2.90 (m, 4H), 2.78–2.72 (m, 1H), 2.62–2.56 (m, 1H), 2.03–1.95 (m, 2H), 1.77–1.62 (m, 10H).

reactant | (S)-2-benzyl-piperazine | 7.0 mmol, 1.23 g | C(C1=CC=CC=C1)[C@@H]1NCCNC1 | C11H16N2
reactant | 2-cyclopentyl-4,9-dihydro-3-thia-1,4,9-triaza-benzo{f}azulene-10-thione | 2.0 mmol, 0.602 g | C1(CCCC1)C1=NC=2C(NC3=C(NC2S1)C=CC=C3)=S | C15H15N3S2
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | (S)-2-Cyclopentyl-10-(3-benzyl-piperazin-1-yl)-4H-3-thia-1,4,9-triaza-benzo[f]azulene | C1(CCCC1)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](NCC3)CC3=CC=CC=C3 | C26H29N5S
